* Block 09: Startup Circuit — v14
* PVDD 5V LDO Regulator — SkyWater SKY130A
*
* Phase 1 (startup, PVDD < 4V):
*   - ea_en LOW, error amp disabled, Mpu pulls ea_out toward PVDD
*   - MP_pu_ea also pulls ea_out toward PVDD (self-regulation backup)
*   - Switched source followers clamp gate to ~BVDD-1.5V (body effect)
*   - Vsg ≈ 1.5V → moderate pass device current → PVDD charges to ~4V
* Phase 2 (after startup, PVDD > 4V):
*   - Source followers OFF, startup pullup OFF
*   - ea_en HIGH, error amp takes over
*   - Level shifter translates ea_out to gate in BVDD domain
*
.subckt startup bvdd pvdd gate gnd vref startup_done ea_en ea_out

* ================================================================
* PVDD threshold detector — trips at PVDD ~ 4V
* ================================================================
* sense_mid = PVDD * 0.2125 → Vth at PVDD≈4V
XR_top pvdd sense_mid gnd sky130_fd_pr__res_xhigh_po w=2 l=788
XR_bot sense_mid gnd gnd sky130_fd_pr__res_xhigh_po w=2 l=212
XMN_det det_n sense_mid gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=4e-6 l=1e-6
XR_pu bvdd det_n gnd sky130_fd_pr__res_xhigh_po w=1 l=2000

* det_out: HIGH when PVDD > ~4V
XMP_inv1 det_out det_n bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=4e-6 l=1e-6
XMN_inv1 det_out det_n gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=2e-6 l=1e-6

* inv_det: HIGH during startup, LOW after
XMP_inv2 inv_det det_out bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=4e-6 l=1e-6
XMN_inv2 inv_det det_out gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=2e-6 l=1e-6

* ================================================================
* SWITCHED SOURCE FOLLOWERS — active during startup only
* gate=inv_det: ON during startup (BVDD), OFF after (0V)
* With body effect: gate_node ≈ BVDD - 1.5V → Vsg ≈ 1.5V
* ================================================================
* Source followers — help at BVDD=7V for faster PVDD charge
XMN_sf1 bvdd inv_det gate gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=1e-6
XMN_sf2 bvdd inv_det gate gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=1e-6

* ================================================================
* NON-INVERTING LEVEL SHIFTER (active after startup)
* ================================================================
* Bias: R divider gives high ls_bias, diode clamp limits it to ~6V
* R divider: ls_bias = BVDD * 6/7 (same as before) = 6V at 7V, 9V at 10.5V
* Clamp: 5 stacked diode-connected NMOS clamp ls_bias to ~5.5V
* Net: ls_bias ≈ 5.5V at BVDD=7V, ~5.5V at BVDD=10.5V (clamped)
XR_lb1 bvdd ls_bias gnd sky130_fd_pr__res_xhigh_po w=2 l=1000
XR_lb2 ls_bias gnd gnd sky130_fd_pr__res_xhigh_po w=2 l=6000
* Diode clamp: 5 stacked NMOS → clamp at ~5.7V
* Self-reg equilibrium ≈ 5.7-0.85 = 4.85V (above 4V detector threshold)
XMD1 ls_bias ls_bias d1 gnd sky130_fd_pr__nfet_g5v0d10v5 w=1e-6 l=1e-6
XMD2 d1 d1 d2 gnd sky130_fd_pr__nfet_g5v0d10v5 w=1e-6 l=1e-6
XMD3 d2 d2 d3 gnd sky130_fd_pr__nfet_g5v0d10v5 w=1e-6 l=1e-6
XMD4 d3 d3 d4 gnd sky130_fd_pr__nfet_g5v0d10v5 w=1e-6 l=1e-6
XMD5 d4 d4 gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=1e-6 l=1e-6

XMN_cg ea_out ls_bias gate gnd sky130_fd_pr__nfet_g5v0d10v5 w=0.42e-6 l=4e-6

* R_load: 100kΩ from BVDD to gate
XR_load bvdd gate gnd sky130_fd_pr__res_xhigh_po w=1 l=50

* STARTUP ea_out PULLUP — pulls ea_out toward PVDD during startup
XMP_pu_ea ea_out det_out pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=1e-6


* ================================================================
* ea_en: inverter driven by inv_det + RC delay for soft handoff
* Slow ea_en rise gives error amp time to establish operating point
* R_delay = 1MΩ, C_delay = 100pF → tau = 100µs
* ================================================================
XMN_ea ea_en_fast inv_det gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=4e-6 l=1e-6
XMP_ea ea_en_fast inv_det bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=2e-6 l=1e-6
* R = 2000*10000/1 = 20MΩ, C = 120pF → tau = 2.4ms
XR_delay ea_en_fast ea_en gnd sky130_fd_pr__res_xhigh_po w=1 l=10000
C_delay ea_en gnd 120p

* ================================================================
* startup_done: double-inversion buffer of det_out
* ================================================================
XMP_sd1 sd_inv det_out bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=4e-6 l=1e-6
XMN_sd1 sd_inv det_out gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=2e-6 l=1e-6
XMP_sd2 startup_done sd_inv bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=4e-6 l=1e-6
XMN_sd2 startup_done sd_inv gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 w=2e-6 l=1e-6

.ends startup
